US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
One hundred milligrams (0.237 mmol) of 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid-tert.butyl ester in 5 ml of benzene were heated together with some crystals of p-toluene-sulfonic acid hydrate to reflux temperature for half a day. According to the thin layer chromatogram no starting product could be then detected; however, according to the Rf -value and mass spectrum the desired product was formed.

reactant | 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid-tert.butyl ester | 0.237 mmol, One hundred milligrams | C(C)(C)(C)OC(C1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C26H34N2O3
reactant | p-toluene-sulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N | C22H26N2O3
